US08865726B2
(S)-4-cyclopentyl-3-(3-(3-fluoro-4-(1H-1,2,4-triazol-3-yl)phenyl)pyrazolo[1,5-a]pyrimidin-5-yl)oxazolidin-2-one (10 mg, 50%) was prepared by the procedure described in Example 1, Step 9, using a mixture of (S)-4-cyclopentyl-3-(3-(3-fluoro-4-(1-((2-(trimethylsilyl)ethoxy)methyl)-1H-1,2,4-triazol-3-yl)phenyl)pyrazolo[1,5-a]pyrimidin-5-yl) oxazolidin-2-one and (S)-4-cyclopentyl-3-(3-(3-fluoro-4-(1-((2-(trimethylsilyl)ethoxy)methyl)-1H-1,2,4-triazol-5-yl)phenyl)pyrazolo[1,5-a]pyrimidin-5-yl)oxazolidin-2-one. LCMS (APCI+) m/z 434.6 [M+H]+.

reactant | (S)-4-cyclopentyl-3-(3-(3-fluoro-4-(1-((2-(trimethylsilyl)ethoxy)methyl)-1H-1,2,4-triazol-3-yl)phenyl)pyrazolo[1,5-a]pyrimidin-5-yl) oxazolidin-2-one | C1(CCCC1)[C@@H]1N(C(OC1)=O)C1=NC=2N(C=C1)N=CC2C2=CC(=C(C=C2)C2=NN(C=N2)COCC[Si](C)(C)C)F | C28H34FN7O3Si
reactant | (S)-4-cyclopentyl-3-(3-(3-fluoro-4-(1-((2-(trimethylsilyl)ethoxy)methyl)-1H-1,2,4-triazol-5-yl)phenyl)pyrazolo[1,5-a]pyrimidin-5-yl)oxazolidin-2-one | C1(CCCC1)[C@@H]1N(C(OC1)=O)C1=NC=2N(C=C1)N=CC2C2=CC(=C(C=C2)C2=NC=NN2COCC[Si](C)(C)C)F | C28H34FN7O3Si
product | (S)-4-cyclopentyl-3-(3-(3-fluoro-4-(1H-1,2,4-triazol-3-yl)phenyl)pyrazolo[1,5-a]pyrimidin-5-yl)oxazolidin-2-one | 10 mg, 50% | C1(CCCC1)[C@@H]1N(C(OC1)=O)C1=NC=2N(C=C1)N=CC2C2=CC(=C(C=C2)C2=NNC=N2)F | C22H20FN7O2
